US08445510B2
(2R)-3-[4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3-(trifluoromethyl)-1H-pyrazol-1-yl]propane-1,2-diol
A mixture of 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (10.0 mg, 0.0232 mmol), 4-bromo-1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3-(trifluoromethyl)-1H-pyrazole (15.3 mg, 0.0464 mmol), Pd(PPh3)4 (1.34 mg, 0.00116 mmol), K2CO3 (9.63 mg, 0.0696 mmol) and 4:1 dioxane:H2O (0.5 mL, 5 mmol) was heated in a microwave reactor at 95° C. for 20 min. 12 M of HCl in H2O (0.1 mL, 1 mmol) was added, and the solution was heated to 45° C. for 1 h. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.79 (d, J=7.1 Hz, 3H), 3.56 (d, J=5.3 Hz, 2H), 3.63 (br. s., 3H), 4.04 (dd, J=8.1, 3.8 Hz, 1H), 4.19 (dd, J=13.9, 8.1 Hz, 1H), 4.38 (dd, J=13.9, 3.8 Hz, 1H), 5.10 (q, J=7.0 Hz, 1H), 6.87 (dd, J=9.0, 4.2 Hz, 1H), 7.06 (t, J=8.8 Hz, 1H), 7.35 (d, J=1.3 Hz, 1H), 7.54 (s, 1H), 7.82 (s, 1H), 8.13 (br. s., 1H). MS (ES+): m/z=513.06/515.06 (100/50) [MH+]. HPLC: tR=3.26 min (polar—5 min, ZQ3).

reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0232 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | 4-bromo-1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3-(trifluoromethyl)-1H-pyrazole | 0.0464 mmol, 15.3 mg | BrC=1C(=NN(C1)C[C@H]1OC(OC1)(C)C)C(F)(F)F | C10H12BrF3N2O2
reactant | K2CO3 | 0.0696 mmol, 9.63 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 5 mmol, 0.5 mL | O | H2O
reactant | HCl | 12 M | Cl | ClH
reactant | H2O | 1 mmol, 0.1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.00116 mmol, 1.34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R)-3-[4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3-(trifluoromethyl)-1H-pyrazol-1-yl]propane-1,2-diol | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C[C@H](CO)O)C(F)(F)F | C23H21ClF4N4O3
